US09387200B2
a) 4-Hydroxy-7-(4-methoxy-phenyl)-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester
The title compound was synthesized in analogy to Example 1 from 7-bromo-4-hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester and 4-methoxyphenylboronic acid: MS (m/z) 407.2 (M+1).

reactant | 7-bromo-4-hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)Br)SN=C2C2=CC=CC=C2)O | C15H11BrN2O3S
reactant | 4-methoxyphenylboronic acid | COC1=CC=C(C=C1)B(O)O | C7H9BO3
product | 4-Hydroxy-7-(4-methoxy-phenyl)-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C1=CC=C(C=C1)OC)SN=C2C2=CC=CC=C2)O | C22H18N2O4S
